US07566712B2
Heat a solution of 4-[4-(3-chloro-6-methoxy-pyridin-2-yl)-2-methyl-piperazin-1-yl]-6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine (120 mg, 0.241 mmol) in concentrated HCl at 90° C. for 24 hours. Cool to room temperature, adjust the pH to 7, and extract with EtOAc. Wash with brine, dry the solution (Na2SO4), and concentrate under reduced pressure. Purify the residue by flash column chromatography eluting with EtOAc:Hexanes (1:4) to afford 5-chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-methyl-piperazin-1-yl}-pyridin-2-ol as an off-white solid. 1H NMR (300 MHz, CDCl3): δ1.32 (m, 6H, 2×CH3); 1.69 (m, 1H, CH2CH2); 1.91 (m, 1H, CH2CH2); 2.04 (m, 2H, CH2CH2); 3.06 (m, 1H); 3.24 (m, 1H); 3.36 (m, 1H); 3.67 (m, 4H); 4.33 (m, 2H); 4.71 (m, 1H); 6.22 (m, 2H); 7.10 (m, 2H); 7.45 (d, J=8.7 Hz, 1H); 8.01 (m, 2H); 9.27 (br, 1H, OH).

reactant | 4-[4-(3-chloro-6-methoxy-pyridin-2-yl)-2-methyl-piperazin-1-yl]-6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine | 0.241 mmol, 120 mg | ClC=1C(=NC(=CC1)OC)N1CC(N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1C(CCC1)C)C | C26H30ClFN6O
solvent | HCl | Cl | ClH
product | 5-chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-methyl-piperazin-1-yl}-pyridin-2-ol | ClC=1C=CC(=NC1N1CC(N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1C(CCC1)C)C)O | C25H28ClFN6O
